Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
saxagliptin / Penicillins / cephalexin
 
Attending: ___.
 
Chief Complaint:
Incarcerated left inguinal hernia
 
Major Surgical or Invasive Procedure:
___ L inguinal hernia repair with mesh

 
History of Present Illness:
patient is a ___ year old female pmh of T2DM, CKD stage III who
presents with one day history of lower abdominal pain, followed
by nausea, vomiting, which progressively became more bilious as
the day progressed. the patient came to the ED when a CT scan of
the abdomen and pelvis was performed and showed SBO with a Left
sided inguinal hernia with a loop of bowel which was the TP, and
some hyperenhancement of the trapped bowel loop. 
the patient at the time of our evaluation was pain free and had
no nausea, however, she has not been passing gas since morning,
and her lastbowel movement was diarrheal and the day prior to 
the
presentation. 
Her labs were notable for a lactate of 1.5, bicarb of 21, and a
sugar of 400. 

 
Past Medical History:
DIABETES MELLITUS 
HYPERCHOLESTEROLEMIA 
HYPERTENSION 
CHRONIC KIDNEY DISEASE 

 
Physical Exam:
___ 2323 Temp: 98.7 PO BP: 139/71 HR: 69 RR: 16 O2 sat: 95%
O2 delivery: Ra 
GEN: Well appearing, no acute distress
CV: HDS
PULM: No signs of respiratory distress. 
ABD: soft, mildly tender at incision site, incision clean and 
dry

 
Brief Hospital Course:
The patient presented to Emergency Department on ___.  Upon 
arrival to ED, she had an small bowel obstruction from the 
incarcerated hernia with resolved with hernia reduction. Given 
findings, the patient was taken to the operating room for hernia 
repair. There were no adverse events in the operating room; 
please see the operative note for details.  Pt was extubated, 
taken to the PACU until stable, then transferred to the ward for 
observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral medications.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: Postoperatively, the diet was advanced sequentially 
to a Regular diet, which was well tolerated. Patient's intake 
and output were closely monitored. Her blood sugars were closely 
monitored and she was advised to continue with close outpatient 
follow-up.

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Diltiazem Extended-Release 180 mg PO DAILY 
3. Enalapril Maleate 20 mg PO DAILY 
4. CARVedilol 6.25 mg PO BID 
5. Furosemide 40 mg PO EVERY OTHER DAY 
6. Ferrous Sulfate 325 mg PO BID 
7. GlipiZIDE 10 mg PO BID 
8. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*100 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth four times 
a day Disp #*8 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily Disp 
#*100 Tablet Refills:*0 
5.  CARVedilol 6.25 mg PO BID  
6.  Diltiazem Extended-Release 180 mg PO DAILY  
7.  Enalapril Maleate 20 mg PO DAILY  
8.  Ferrous Sulfate 325 mg PO BID  
9.  Furosemide 40 mg PO EVERY OTHER DAY  
10.  GlipiZIDE 10 mg PO BID  
11.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
12.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated left inguinal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to ___ and 
underwent inguinal hernia repair. ___ are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

General Surgery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
___ experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If ___ are vomiting and cannot keep down fluids or your 
medications.
___ are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
___ see blood or dark/black material when ___ vomit or have a 
bowel movement.
___ experience burning when ___ urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
___.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if ___ have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
___ may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If ___ have staples, they will be removed at your follow-up 
appointment.
*If ___ have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

Please schedule a follow-up appointment with ___ clinic for 
within the week. 
 
Followup Instructions:
___